US08076516B2
N-(3-(5-Bromo-2-chlorophenyl)-3-hydroxypropyl)-2,2,2-trifluoroacetamide was coupled with 4-ethynylheptan-4-ol to give N-(3-(2-chloro-5-(3-hydroxy-3-propylhex-1-ynyl)phenyl)-3-hydroxypropyl)-2,2,2-trifluoroacetamide as a pale yellow oil. Yield (1.03 g, 68%): 1H NMR (400 MHz, DMSO-d6) δ 9.42 (t, J=5.6 Hz, 1H), 7.53 (d, J=2.0 Hz, 1H), 7.34 (d, J=8.0 Hz, 1H), 7.23 (dd, J=8.0 Hz, 2.0, 1H), 5.57 (d, J=4.0 Hz, 1H), 5.17 (s, 1H), 4.87-4.82 (m, 1H), 3.33-3.28 (m, 2H), 1.87-1.79 (m, 1H), 1.66-1.39 (m, 9H), 0.89 (t, J=7.2 Hz, 6H).

reactant | N-(3-(5-Bromo-2-chlorophenyl)-3-hydroxypropyl)-2,2,2-trifluoroacetamide | BrC=1C=CC(=C(C1)C(CCNC(C(F)(F)F)=O)O)Cl | C11H10BrClF3NO2
reactant | 4-ethynylheptan-4-ol | C(#C)C(CCC)(CCC)O | C9H16O
product | N-(3-(2-chloro-5-(3-hydroxy-3-propylhex-1-ynyl)phenyl)-3-hydroxypropyl)-2,2,2-trifluoroacetamide | ClC1=C(C=C(C=C1)C#CC(CCC)(CCC)O)C(CCNC(C(F)(F)F)=O)O | C20H25ClF3NO3
